US04246292
Synthesis of 2,4,4-trimethyl-3-(but-1-yl)-cyclohex-2-en-1-one.
18 g Of the mixture of alkenes obtained by dehydration of dihydro-β-ionol as described in example 1 was dissolved in 150 ml of methanol and hydrogenated at atmospheric pressure using 0.5 g of a catalyst consisting of 5% Palladium on charcoal. Hydrogenation was stopped when the uptake of hydrogen markedly slowed down. A 1:1 mixture of 1,3,3-trimethyl-2-(but-1-yl)-cyclohex-1-ene and 1,3,3-trimethyl-2-(but-1-yl)-cyclohexane was obtained. This mixture was oxidized with tert.butyl chromate as described in example 1, yielding a mixture of the title compound and 1,3,3-trimethyl-2-(but-1-yl)-cyclohexane. The mixture was fractionated yielding 6.75 g of the title compound boiling at 90°-92° C. (4 Torr).

reactant | tert.butyl chromate | [Cr](=O)(=O)(OC(C)(C)C)[O-]
reactant | 1,3,3-trimethyl-2-(but-1-yl)-cyclohexane | CC1C(C(CCC1)(C)C)CCCC | C13H26
product | 2,4,4-trimethyl-3-(but-1-yl)-cyclohex-2-en-1-one | CC=1C(CCC(C1CCCC)(C)C)=O | C13H22O
